US06436923B1
B. {2-(3-Methoxyphenyl)ethyl}phenylamine
To a solution of 2-(3-methoxyphenyl)-N-phenylacetamide (2.0 g, 8.3 mmol) in anhydrous tetrahydrofuran (30 mL) under nitrogen was added lithium aluminum hydride (1.59 g, 42 mmol) in small portions over a 1 hour period. After 16 hours, the reaction was poured over ice and the crude product extracted with ethyl acetate (2×100 mL). The organic layer was dried over MgSO4, filtered and concentrated to provide the title compound (1.3 g, 69% yield): EI-MS (m/z) 227.

reactant | 2-(3-methoxyphenyl)-N-phenylacetamide | 8.3 mmol, 2.0 g | COC=1C=C(C=CC1)CC(=O)NC1=CC=CC=C1 | C15H15NO2
reactant | lithium aluminum hydride | 42 mmol, 1.59 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | {2-(3-Methoxyphenyl)ethyl}phenylamine | 1.3 g, 69% yield | COC=1C=C(C=CC1)CCNC1=CC=CC=C1 | C15H17NO
